US09428528B2
Step 3 Preparation of (N-{(1S,2R)-2-[4-(4-Aminomethyl-[1,2,3]triazol-1-yl)-phenyl]-1-fluoromethyl-2-hydroxy-ethyl}-2,2-dichloroacetamide
To the solution of ((N-[(1S,2R)-2-(4-Azido-phenyl)-1-fluoromethyl-2-hydroxy-ethyl]-2,2-dichloro-acetamide (150 mg, 0.465 mmol) in tert-butylalcohol: water (1:1, 3 mL) is added Na-ascorbate (12 mg, 0.060 mmol), CuSO4.5H2O (3 mg, 0.012 mmol), propargyl amine (26 mg, 0.472 mmol) resulting reaction mixture stirred at room temperature for 16 hours. Solvent is evaporated in vacuo to get the crude material purified by column chromatography eluting in 25-40% methanol in dichloromethane and washed with diethyl ether and dried under vacuum to afford the title compound (25 mg). 1H-NMR (400 MHz, DMSO-d6) δ: 3.84 (s, 2H), 4.23-4.29 (m, 1H), 4.30-4.34 (m, 0.5H), 4.42-4.46 (m, 0.5H), 4.58-4.61 (m, 0.5H), 4.69-4.73 (m, 0.5H), 4.93 (bs, 1H), 6.07 (d, 1H, J=4.28 Hz), 6.49 (s, 1H), 7.54 (d, 2H, J=8.48 Hz), 7.81 (d, 2H, J=8.52 Hz), 8.57 (s, 1H), 8.61 (d, 1H, J=5.6 Hz). LC-MS (m/z): [M+H]=376.2.

reactant | N-[(1S,2R)-2-(4-Azido-phenyl)-1-fluoromethyl-2-hydroxy-ethyl]-2,2-dichloro-acetamide | 0.465 mmol, 150 mg | N(=[N+]=[N-])C1=CC=C(C=C1)[C@H]([C@@H](CF)NC(C(Cl)Cl)=O)O | C11H11Cl2FN4O2
reactant | propargyl amine | 0.472 mmol, 26 mg | C(C#C)N | C3H5N
solvent | tert-butylalcohol water | 3 mL | C(C)(C)(C)O.O
product | N-{(1S,2R)-2-[4-(4-Aminomethyl-[1,2,3]triazol-1-yl)-phenyl]-1-fluoromethyl-2-hydroxy-ethyl}-2,2-dichloroacetamide | 25 mg | NCC=1N=NN(C1)C1=CC=C(C=C1)[C@H]([C@@H](CF)NC(C(Cl)Cl)=O)O | C14H16Cl2FN5O2
